US08211908B2
To a suspension of 0.10 g of 1-(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-yl)-N-(pyrrolidin-3-ylmethyl)methanamine hydrochloride in 5 mL of methanol, 0.17 g of a 28% sodium methoxide/methanol solution, 66 mg of (7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde, 0.10 g of molecular sieves 3A, 33 μL of acetic acid and 18 mg of sodium cyanoborohydride were added at room temperature, and the mixture was stirred at the same temperature for 2 hours 30 minutes. To the reaction mixture, a saturated aqueous sodium hydrogen carbonate solution and ethyl acetate were added, the organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by basic silica gel column chromatography using an eluent of chloroform:methanol=30:1 to obtain 20 mg of 1-(2-(3-(((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)methyl)pyrrolidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one as a yellow oily substance.

reactant | 1-(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-yl)-N-(pyrrolidin-3-ylmethyl)methanamine hydrochloride | 0.10 g | Cl.O1CCOC=2C=NC(=CC21)CNCC2CNCC2
reactant | sodium methoxide methanol | C[O-].[Na+].CO
reactant | (7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde | 66 mg | FC1=CN=C2C=CC(N(C2=C1)CC=O)=O | C10H7FN2O2
reactant | sodium cyanoborohydride | 18 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 33 μL | C(C)(=O)O | C2H4O2
product | 1-(2-(3-(((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)methyl)pyrrolidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one | 20 mg | O1CCOC=2C=NC(=CC21)CNCC2CN(CC2)CCN2C(C=CC1=NC=C(C=C21)F)=O | C23H26FN5O3
